US08258144B2
A solution of tert-butyl 4-((2-chloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)methyl)piperidine-1-carboxylate (336 mg, 0.520 mmol) in dioxane (4 mL) was degassed with Ar before being charged with 4-tributylstannylpyridine (452 mg, 1.23 mmol) and Pd(Ph3P)4 (110 mg, 0.095 mmol). The mixture was stirred at 100° C. for 4 h. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo. The residue was purified by a flash column, eluted with EtOAc/hexane (0-100%) to give tert-butyl 4-((2-chloro-5-(pyridine-4-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)methyl)piperidine-1-carboxylate (90 mg).

reactant | tert-butyl 4-((2-chloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)methyl)piperidine-1-carboxylate | 0.520 mmol, 336 mg | ClC=1N=C(C2=C(N1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2)NCC2CCN(CC2)C(=O)OC(C)(C)C | C24H29ClIN5O4S
reactant | 4-tributylstannylpyridine | 1.23 mmol, 452 mg | C(CCC)[Sn](C1=CC=NC=C1)(CCCC)CCCC
reactant | Water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 0.095 mmol, 110 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-((2-chloro-5-(pyridine-4-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)methyl)piperidine-1-carboxylate | 90 mg | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=NC=C2)S(=O)(=O)C2=CC=C(C)C=C2)NCC2CCN(CC2)C(=O)OC(C)(C)C | C29H33ClN6O4S
